US05366982
To a suspension of 0.78 g of sodium hydride (55% w/w dispersion in mineral oil) in 300 cc of dimethylformamide was added a solution of 2 g of 3,5-diphenyl-phenol in 10 cc of dimethylformamide. The mixture was stirred for 5 hours at room temperature until effervescence had stopped. 2.2 g of ethyl 6-bromohexanoate was then added and the resultant mixture stirred at room temperature overnight. The mixture was then heated for 20 hours to 40° C. After cooling, the resultant mixture was poured into 100 cc of cold water and extracted with ethyl acetate (3#100 cc). The combined extracts were washed with water, dried (Na2SO4) and concentrated in vacuo. The resultant residue was flash chromatographed on silica gel (30-60 mm; eluent: 92:8 n-hexane/ethyl acetate) to give 1 g of ethyl 6-(3,5-diphenyl-phenoxy)hexanoate as a oil, used without further purification in the next step.

reactant | sodium hydride | 0.78 g | [H-].[Na+]
reactant | 3,5-diphenyl-phenol | 2 g | C1(=CC=CC=C1)C=1C=C(C=C(C1)C1=CC=CC=C1)O | C18H14O
reactant | ethyl 6-bromohexanoate | 2.2 g | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | water | 100 cc | O | H2O
solvent | dimethylformamide | 300 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 cc | CN(C=O)C | C3H7NO
product | ethyl 6-(3,5-diphenyl-phenoxy)hexanoate | 1 g | C1(=CC=CC=C1)C=1C=C(OCCCCCC(=O)OCC)C=C(C1)C1=CC=CC=C1 | C26H28O3
